US07749992B2
Step 1. Preparation of 2-Amino-6-fluor-benzoic acid methyl ester
Dissolve 2-Amino-6-fluoro-benzoic acid (3.00 g, 19.3 mmol) in ethylacetate (59 mL) and ethanol (59 mL) and add (trimethylsilyl) diazomethane (19.3 mL, 38.68 mmol, 2M in hexane) at room temperature and stir the solution for 1 h 30 min. Remove the solvent under reduced pressure to afford the title compound (3.26 g, quantitative). MS (ES+): 170 (M+H).

reactant | 2-Amino-6-fluoro-benzoic acid | 19.3 mmol, 3.00 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | (trimethylsilyl) diazomethane | 38.68 mmol, 2M, 19.3 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ethylacetate | 59 mL | C(C)OC(C)=O | C4H8O2
solvent | ethanol | 59 mL | C(C)O | C2H6O
product | 2-Amino-6-fluor-benzoic acid methyl ester | 3.26 g | COC(C1=C(C=CC=C1F)N)=O | C8H8FNO2
